US04604401
To 2.00 g (5.0 mmol) of 1-[[(1,1-dimethylethoxy)carbonyl]methylamino]-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, ethyl ester was added 35 ml of acetic acid and 15 ml of 2N hydrochloric acid. The mixture was placed on a steam bath for 2.5 hours, was diluted with 15 ml of water, and was cooled. The solids were filtered to give 1.09 g of 6,7,8-trifluoro-1,4-dihydro-1-methylamino-4-oxo-3quinolinecarboxylic acid, mp 237°-238° C.

reactant | 1-[[(1,1-dimethylethoxy)carbonyl]methylamino]-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, ethyl ester | 5.0 mmol, 2.00 g | CC(C)(OC(=O)CNN1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC)C | C18H19F3N2O5
reactant | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 2N, 15 ml | Cl | ClH
solvent | water | 15 ml | O | H2O
product | 6,7,8-trifluoro-1,4-dihydro-1-methylamino-4-oxo-3quinolinecarboxylic acid | 1.09 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)NC)C(=O)O)=O | C11H7F3N2O3
